US07161031B2
(E)-2,4,6-Trimethoxystyryl-N-[(3-ureido)-4-methoxyphenyl]-sulfonamide
To a solution of 2,4,6-trimethoxystyryl-N-(3-amino-4-methoxyphenyl)-sulfonamide (1 mmol) in glacial acetic acid (10 mL) is added an aqueous solution of potassium cyanate (1 mmol in 2 mL of de-ionized water). The reaction mixture is stirred for 3 h at room temperature. The reaction mixture is then poured into de-ionized water (100 mL) and extracted with ethyl acetate for 3 times. The combined organic layer is then washed with sodium bicarbonate to neutralize acetic acid and then with brine. The organic layer is then dried over anhydrous magnesium sulfate and the solvent is removed under vacuum to yield the title compound which is purified by column chromatography.

reactant | 2,4,6-trimethoxystyryl-N-(3-amino-4-methoxyphenyl)-sulfonamide | 1 mmol | COC1=C(C=CS(=O)(=O)NC2=CC(=C(C=C2)OC)N)C(=CC(=C1)OC)OC | C18H22N2O6S
reactant | potassium cyanate | 1 mmol, 2 mL | [O-]C#N.[K+]
reactant | water | 100 mL | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | (E)-2,4,6-Trimethoxystyryl-N-[(3-ureido)-4-methoxyphenyl]-sulfonamide | COC1=C(/C=C/S(=O)(=O)NC2=CC(=C(C=C2)OC)NC(=O)N)C(=CC(=C1)OC)OC | C19H23N3O7S
